US07560546B2
Step E: 5-Bromo-3-{[4-(3-morpholin-4-ylpropyl)-3-oxopiperazin-1-yl]sulfonyl}-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2carboxylate, and morpholine with 1-(3-morpholin-4-ylpropyl)piperazin-2-one hydrochloride, the title compound was obtained. ESI+MS: 528.3 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 1-(3-morpholin-4-ylpropyl)piperazin-2-one hydrochloride | Cl.N1(CCOCC1)CCCN1C(CNCC1)=O
product | 5-Bromo-3-{[4-(3-morpholin-4-ylpropyl)-3-oxopiperazin-1-yl]sulfonyl}-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CC(N(CC1)CCCN1CCOCC1)=O | C20H26BrN5O5S
